US07091215B2
7-Bromo-2-methoxypyrazolo[1,5-a]pyridine-3-amine
After dissolving 7-bromo-2-methoxypyrazolo[1,5-a]pyridine (1 g) in acetic acid (10 mL), an aqueous solution (5 mL) containing sodium nitrite (334 mg) was added and the mixture was stirred at room temperature for 20 minutes. After adding ethanol (60 mL) and water (30 mL) to the reaction mixture, zinc powder (1 g) was added and the mixture was heated and stirred at 60° C. for 30 minutes. The insoluble residue was filtered out, water was added, and extraction was performed with ethyl acetate. After washing the organic layer with brine, drying it over anhydrous magnesium sulfate and filtering it, the solvent was concentrated under reduced pressure, the residue was purified by silica gel column chromatography, and the title compound (750 mg) was obtained from the n-hexane:ethyl acetate (3:1) fraction as brown crystals.

reactant | 7-bromo-2-methoxypyrazolo[1,5-a]pyridine | 1 g | BrC1=CC=CC=2N1N=C(C2)OC | C8H7BrN2O
reactant | sodium nitrite | 334 mg | N(=O)[O-].[Na+]
reactant | ethanol | 60 mL | C(C)O | C2H6O
reactant | water | 30 mL | O | H2O
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 1 g | [Zn] | Zn
product | 7-Bromo-2-methoxypyrazolo[1,5-a]pyridine-3-amine | 750 mg | BrC1=CC=CC=2N1N=C(C2N)OC | C8H8BrN3O
